US06448282B1
4-(7-Phenylhept-3-ynyl)imidazole was prepared in the same manner as described in example 36 except that 4-(4,4-dibromobut-3-enyl)-1-(triphenylmethyl)imidazole and 1-bromo-3-phenylpropane were used.

reactant | 4-(4,4-dibromobut-3-enyl)-1-(triphenylmethyl)imidazole | BrC(=CCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Br | C26H22Br2N2
reactant | 1-bromo-3-phenylpropane | BrCCCC1=CC=CC=C1 | C9H11Br
product | 4-(7-Phenylhept-3-ynyl)imidazole | C1(=CC=CC=C1)CCCC#CCCC=1N=CNC1 | C16H18N2
